US06239131B1
Preparation of 2-fluoro-5-[3-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-fluorophenyl)urea (510 mg) was dissolved in methanol (24 ml), aqueous lithium hydroxide monohydrate (178 mg) solution (12 ml) and tetrahydrofuran (12 ml) was added, and the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure, 1N hydrochloric acid was added, and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and diisopropyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 320 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-fluorophenyl)urea | 510 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)NC2=CC(=C(C=C2)F)C(=O)OC)=O)C | C33H35FN4O6
reactant | lithium hydroxide monohydrate | 178 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methanol | 24 ml | CO | CH4O
product | 2-fluoro-5-[3-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 320 mg | FC1=C(C(=O)O)C=C(C=C1)NC(=O)NC1CN(C2=C(N(C1=O)CC(=O)C=1C(=CC=CC1)C)C=C(C=C2)C)C(C(C)(C)C)=O | C32H33FN4O6
